US09334263B2
Synthesis of (S,Z)-tert-butyl 4-(5-((tert-butylsulfinylimino)(4-fluorophenyl)methyl)pyrimidin-2-yl)piperazine-1-carboxylate
To a solution of tert-butyl 4-(5-(4-fluorobenzoyl)pyrimidin-2-yl)piperazine-1-carboxylate (4.0 g, 10.4 mmol), (S)-2-methylpropane-2-sulfinamide (2.5 g, 20.7 mmol) in THF (60 mL) was added titanium ethoxide (20 mL) at room temperature. The resultant solution was heated at 70° C. overnight. After that, the reaction was cooled to room temperature, diluted with ethyl acetate (200 mL) and saturated aqueous sodium bicarbonate (500 mL). The mixture was filtered through Celite. The filtrate was separated. Aqueous layer was extracted with ethyl acetate (200 mL×3). Then organic layers were combined, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel column (petroleum ether:ethyl acetate 2:1) to afford the title compound (3.3 g, yield 66%) as a yellow solid. MS (ES+) requires: 489, found 490 [M+H]+; purity: 95% (UV at 254 nm).

reactant | tert-butyl 4-(5-(4-fluorobenzoyl)pyrimidin-2-yl)piperazine-1-carboxylate | 10.4 mmol, 4.0 g | FC1=CC=C(C(=O)C=2C=NC(=NC2)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C20H23FN4O3
reactant | (S)-2-methylpropane-2-sulfinamide | 20.7 mmol, 2.5 g | CC(C)(C)[S@](=O)N | C4H11NOS
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | 500 mL | C([O-])(O)=O.[Na+]
catalyst | titanium ethoxide | 20 mL | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | (S,Z)-tert-butyl 4-(5-((tert-butylsulfinylimino)(4-fluorophenyl)methyl)pyrimidin-2-yl)piperazine-1-carboxylate | 3.3 g, yield 66% | C(C)(C)(C)[S@](=O)\N=C(/C=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)\C1=CC=C(C=C1)F | C24H32FN5O3S
